US08431695B2
Preparation of N-{3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzyl}-acetamide
Using a procedure similar to that of Example 5 with 7-(3-aminomethyl-phenyl)-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine and acetyl chloride as starting materials, 13 mg (6%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d5) δ 8.80 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 4.10 (d, 2 H), 1.90 (s, 3 H); ES-MS m/z 488.4 [M+H]+, HPLC RT (min) 2.69.

reactant | 7-(3-aminomethyl-phenyl)-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | NCC=1C=C(C=CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H23N7
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-{3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzyl}-acetamide | 13 mg, 6% | NC1=NC=NN2C1=C(C=C2C=2C=C(CNC(C)=O)C=CC2)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C29H25N7O
